US08334292B1
Step 1: Preparation 5-Bromo-2,4-dichloro-6-(methoxymethyl)pyrimidine (1)
To a solution of 5-bromo-2,4-dichloro-6-(chloromethyl)pyrimidine (600 mg, 2.19 mmol) in anhydrous MeOH (15 mL) at 0° C. was added NaOMe (25% wt in MeOH, 521 mg, 2.41 mmol). The mixture was stirred at 0° C. for 30 min and then allow warm to room temperature and stirred overnight. After this time the reaction mixture was concentrated in vacuo. The residue was purified using ISCO chromatography (24 g silica gel, 0-1.5% EtOAc in hexanes in 40 min) to give the title compound (480 mg, 81%) as a white solid. 1H NMR (DMSO, 300 MHz) δ 4.77 (s, 2H), 4.04 (s, 3H).

reactant | 5-bromo-2,4-dichloro-6-(chloromethyl)pyrimidine | 2.19 mmol, 600 mg | BrC=1C(=NC(=NC1CCl)Cl)Cl | C5H2BrCl3N2
reactant | NaOMe | 2.41 mmol, 521 mg | C[O-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 5-Bromo-2,4-dichloro-6-(methoxymethyl)pyrimidine | 480 mg, 81% | BrC=1C(=NC(=NC1COC)Cl)Cl | C6H5BrCl2N2O
